US04835158
9,12-Bis(acetyloxy)-5,14-dihydrobenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione
5,8-bis(acetyloxy)-1,4-napthalenedione (4.28 g) and 2-formyl-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid (1.60 g) in acetic anhydride (65 ml) were heated at 100° C. (20 minutes). The reaction mixture was cooled at about 20° C. (1 h), and the solid was collected by filtration, washed with ether (3×30 ml) and dried in vacuo. The crude product was dissolved in dichloromethane and the solution was loaded onto a column of silica gel (175 g) packed in dichloromethane. The column was eluted with 5% (v/v) ethyl acetate in dichloromethane and fractions containing the major component were evaporated to dryness, and further dried in vacuo at 55° C. to give the title compound as a yellow-green solid (1.34 g), m.p. 228°-232° C. (dec), λmax (in CH2Cl2) 242 nm (ε40,700), 377 nm (ε6,400).

reactant | 5,8-bis(acetyloxy)-1,4-napthalenedione | 4.28 g | C(C)(=O)OC1=C2C(C=CC(C2=C(C=C1)OC(C)=O)=O)=O | C14H10O6
reactant | 2-formyl-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid | 1.60 g | C(=O)N1CC2=CC=CC=C2CC1C(=O)O | C11H11NO3
solvent | acetic anhydride | 65 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9,12-Bis(acetyloxy)-5,14-dihydrobenz[5,6]isoindolo[2,1-b]isoquinoline-8,13-dione | 1.34 g | C(C)(=O)OC1=CC=C(C2=C1C(C1=CN3CC4=CC=CC=C4CC3=C1C2=O)=O)OC(C)=O | C24H17NO6
